US07652041B2
Step 2: Preparation of di-tert-butyl [(2S)-3-hydroxypropane-1,2-diyl]biscarbamate
To a solution of methyl (2S)-2,3-bis[(tert-butoxycarbonyl)amino]-propanoate (3.57 g, 11.2 mmol) in THF (60 mL) at 0° C. was added lithium chloride (523 mg, 12.3 mmol) and then sodium borohydride (467 mg, 12.3 mmol) portionwise. Ethanol (30 mL) was added slowly. The reaction mixture was allowed to warm to rt and stirred for 18 h. Acetic acid (0.707 mL, 12.3 mmol) was added and the solvents were evaporated. The residue was purified by chromatography (SiO2, EtOAc/hexane) to yield the title compound as a white solid (2.35 g, 72.2%). LCMS: (FA) ES+ 291.2 (M+1).

reactant | methyl (2S)-2,3-bis[(tert-butoxycarbonyl)amino]-propanoate | 11.2 mmol, 3.57 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)OC)CNC(=O)OC(C)(C)C | C14H26N2O6
reactant | lithium chloride | 12.3 mmol, 523 mg | [Cl-].[Li+]
reactant | sodium borohydride | 12.3 mmol, 467 mg | [BH4-].[Na+]
reactant | Acetic acid | 12.3 mmol, 0.707 mL | C(C)(=O)O | C2H4O2
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | Ethanol | 30 mL | C(C)O | C2H6O
product | di-tert-butyl [(2S)-3-hydroxypropane-1,2-diyl]biscarbamate | 2.35 g, 72.2% | OC[C@H](CNC(OC(C)(C)C)=O)NC(OC(C)(C)C)=O | C13H26N2O5
